US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-10-hydroxymethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester following a procedure analogous to that described in Example 34. Yield: 46% of theory; TLC: rf=0.27 (silica gel, CH2Cl2/MeOH/32% aqueous NH3 90:10:1); Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=C1[C@H]1CCCN([C@H]1CC2)C(=O)C2=CC1=C(NC=N1)C=C2 | C23H23N3O3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | (1H-Benzoimidazol-5-yl)-(cis-10-hydroxymethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 46% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=CC=C3CO | C22H23N3O2
